US04477447
Dicyclohexylcarbodiimide (3.96 g) was added to a stirred solution of 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 6.58 g] and 2-n-dodecyloxy-1-n-dodecyloxymethylethanol (8.23 g) in a mixture of dry pyridine (60 ml) and dry tetrahydrofuran (20 ml) at 3° C., and then stirred at 0° to 5° C. for 4.75 hours and further at room temperature for an hour. The resultant mixture was poured into ice water (350 ml) and extracted with ethyl acetate (500 ml). Water (50 ml) was added to the extract and adjusted to pH 2 to 3 with 20% sulfuric acid. The organic layer was separated and washed with a saturated aqueous solution of sodium chloride (100 ml×2) and an aqueous solution of sodium bicarbonate in turn, and dried over anhydrous magnesium sulfate. After evaporating the solution in vacuo, the residue was subjected to column chromatography on silica gel (266 g) with a mixture of chloroform and methanol (20:1). The eluate was evaporated in vacuo to give powder [6.24 g] of 2-n-dodecyloxy-1-n-dodecyloxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-cephem-4-carboxylate (syn isomer).

reactant | Dicyclohexylcarbodiimide | 3.96 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C14H13N5O6S2
reactant | 2-n-dodecyloxy-1-n-dodecyloxymethylethanol | 8.23 g | C(CCCCCCCCCCC)OCC(O)COCCCCCCCCCCCC | C27H56O3
reactant | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-n-dodecyloxy-1-n-dodecyloxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-cephem-4-carboxylate | 6.24 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(C=CS2)C(=O)OC(COCCCCCCCCCCCC)COCCCCCCCCCCCC)C1=O)=NOC | C41H67N5O8S2
